US06756378B2
To a stirred solution of methyl 1-(tert-butoxycarbonyl)-4-hydroxyproline (4.0 g, 16.3 mmol), Ph3P (5.14 g, 19.6 mmol), and 2,4-difluorophenol (2.55 g, 19.6 mmol) in THF (50 ml) was added DIAD (3.9 ml, 19.6 mmol), and the mixture was heated at reflux for 3 h. After cooling to room temperature, the mixture was concntrated in vacuo and the residue was chromatographed on silica gel with CHCl3-EtOAc (4:1) to give methyl 1-(tert-butoxycarbonyl)-4-(2,4-difluorophenoxy)pyrrolidine-2-carboxylate (5.82 g, quant) as yellow oil.

reactant | methyl 1-(tert-butoxycarbonyl)-4-hydroxyproline | 16.3 mmol, 4.0 g | C[C@@]1(N(CC(C1)O)C(=O)OC(C)(C)C)C(=O)O | C11H19NO5
reactant | Ph3P | 19.6 mmol, 5.14 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 2,4-difluorophenol | 19.6 mmol, 2.55 g | FC1=C(C=CC(=C1)F)O | C6H4F2O
reactant | DIAD | 19.6 mmol, 3.9 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | methyl 1-(tert-butoxycarbonyl)-4-(2,4-difluorophenoxy)pyrrolidine-2-carboxylate | 5.82 g | C(C)(C)(C)OC(=O)N1C(CC(C1)OC1=C(C=C(C=C1)F)F)C(=O)OC | C17H21F2NO5
